US06538150B2
13.25 g (46 mmol) of methyl 4-methanesulfonylaminomethyl-2-nitrobenzoate are dissolved in 200 ml of methanol. After addition of 1.4 ml (46 mmol) of concentrated hydrochloric acid and 1 g of Pd catalyst (10% on active charcoal), the mixture is hydrogenated with hydrogen under atmospheric pressure until the hydrogen uptake is complete. The mixture is removed from the catalyst by filtration and the filtrate is concentrated completely. Crystallization of the residue from water yields 10.4 g (88%) of methyl 2-amino-4-methanesulfonylaminomethylbenzoate of melting point 121-122° C.

reactant | methyl 4-methanesulfonylaminomethyl-2-nitrobenzoate | 46 mmol, 13.25 g | CS(=O)(=O)NCC1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-] | C10H12N2O6S
reactant | hydrochloric acid | 46 mmol, 1.4 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | 200 ml | CO | CH4O
catalyst | Pd | 1 g | [Pd] | Pd
product | methyl 2-amino-4-methanesulfonylaminomethylbenzoate | 10.4 g, 88% | NC1=C(C(=O)OC)C=CC(=C1)CNS(=O)(=O)C | C10H14N2O4S
